US09332754B2
Production of 2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenol (present compound No. C-0018)
In 30 ml of chloroform was dissolved 2.60 g (11.0 mmol) of 2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenol. Thereto was added 3.25 g (13.18 mmol) of 3-chloroperbenzoic acid (purity: about 70%) under ice cooling, and the mixture was stirred for 30 minutes at room temperature. Then, saturated aqueous solution of sodium thiosulfate was added to the reaction mixture to decompose excess peroxide. Thereafter, the solvent was distilled off under reduced pressure, and phase separation was conducted by adding ethyl acetate and water. The organic phase obtained was washed by aqueous potassium carbonate solution and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, to obtain 2.13 g (yield: 77%) of an intended product.

reactant | 2,4-dimethyl-5-(2,2,2-trifluoroethylthio)phenol | 11.0 mmol, 2.60 g | CC1=C(C=C(C(=C1)C)SCC(F)(F)F)O | C10H11F3OS
reactant | 3-chloroperbenzoic acid | 13.18 mmol, 3.25 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2,4-dimethyl-5-(2,2,2-trifluoroethylsulfinyl)phenol | 2.13 g, yield: 77% | CC1=C(C=C(C(=C1)C)S(=O)CC(F)(F)F)O | C10H11F3O2S
